US07098226B2
1-[2-(1-Adamantyl)ethyl]-1-pentyl-3-[3-(4-pyridyl)propyl]urea hydrochloride (Compound No. 13-1)
A 4 N solution of hydrogen chloride in ethyl acetate (0.400 ml, 1.60 mmol) was added to a solution of 1-[2-(1-adamantyl)ethyl]-1-pentyl-3-[3-(4-pyridyl)propyl]urea (Compound No. 1-1) (200 mg, 0.486 mmol) in chloroform (0.3 ml). The solvent was evaporated under reduced pressure, and the precipitated solid was washed with ethyl acetate and filtered off. The obtained crude crystals were recrystallized from 2-butanone (5.0 ml) to give 94 mg (43%) of the titled compound.

reactant | hydrogen chloride | Cl | ClH
reactant | ethyl acetate | 1.60 mmol, 0.400 ml | C(C)(=O)OCC | C4H8O2
reactant | 1-[2-(1-adamantyl)ethyl]-1-pentyl-3-[3-(4-pyridyl)propyl]urea | C12(CC3CC(CC(C1)C3)C2)CCN(C(=O)NCCCC2=CC=NC=C2)CCCCC | C26H41N3O
solvent | chloroform | 0.3 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-[2-(1-Adamantyl)ethyl]-1-pentyl-3-[3-(4-pyridyl)propyl]urea hydrochloride | 94 mg, 43% | Cl.C12(CC3CC(CC(C1)C3)C2)CCN(C(=O)NCCCC2=CC=NC=C2)CCCCC | InChI=1S/C26H41N3O.ClH/c1-2-3-4-13-29(25(30)28-10-5-6-21-7-11-27-12-8-21)14-9-26-18-22-15-23(19-26)17-24(16-22)20-26;/h7-8,11-12,22-24H,2-6,9-10,13-20H2,1H3,(H,28,30);1H
